US04804662
N-[2-[(Phenylmethyl)amino]ethyl]-4-(1H-imidazol-1-yl)-benzamide hydrochloride
Suspend 4.0 g (9.7 mmol) of N-[2-[bis-(phenylmethyl)amino] ethyl]-4-(1H-imidazol-1-yl)benzamide hemihydrate in methanol (25 mL) and treat with 7.0 mL of 1.35 M hydrochloric acid in methanol and 0.5 g of 10% palladium on carbon. Hydrogenate the mixture at ca. 19 psi for about 17 hr. Filter the mixture through celite and evaporate the filtrate. Triturate the residue with ethanol to give crystals of the title compound.

reactant | N-[2-[bis-(phenylmethyl)amino] ethyl]-4-(1H-imidazol-1-yl)benzamide hemihydrate | 9.7 mmol, 4.0 g | O.C1(=CC=CC=C1)CN(CCNC(C1=CC=C(C=C1)N1C=NC=C1)=O)CC1=CC=CC=C1.C1(=CC=CC=C1)CN(CC1=CC=CC=C1)CCNC(C1=CC=C(C=C1)N1C=NC=C1)=O
reactant | hydrochloric acid | 1.35 M, 7.0 mL | Cl | ClH
solvent | methanol | 25 mL | CO | CH4O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | N-[2-[(Phenylmethyl)amino]ethyl]-4-(1H-imidazol-1-yl)-benzamide hydrochloride | Cl.C1(=CC=CC=C1)CNCCNC(C1=CC=C(C=C1)N1C=NC=C1)=O | InChI=1S/C19H20N4O.ClH/c24-19(22-11-10-20-14-16-4-2-1-3-5-16)17-6-8-18(9-7-17)23-13-12-21-15-23;/h1-9,12-13,15,20H,10-11,14H2,(H,22,24);1H
